US07153854B2
To a solution of {[3-(5-ethoxy-5-oxopentyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-2-yl]methoxy}acetic acid (55 mg), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (34.9 mg) and 1-hydroxybenotriazole (24.6 mg) in dimethylformamide (2 mL) was added morpholine (12.7 mg) and the mixture was stirred at ambient temperature for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of ethyl acetate and methanol (50:1–20:1) to give ethyl 5-(7-ethyl-4-(5-methyl-3-pyridinyl)-2-{[2-(4-morpholinyl)-2-oxoethoxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate as yellow oil (50 mg).

reactant | {[3-(5-ethoxy-5-oxopentyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-2-yl]methoxy}acetic acid | 55 mg | C(C)OC(CCCCC1=C(C=2N(N=C1COCC(=O)O)C(=CC2)CC)C=2C=NC=C(C2)C)=O | C25H31N3O5
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 34.9 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | morpholine | 12.7 mg | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(7-ethyl-4-(5-methyl-3-pyridinyl)-2-{[2-(4-morpholinyl)-2-oxoethoxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate | 50 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)CCCCC(=O)OCC)COCC(=O)N2CCOCC2 | C29H38N4O5
